// Generated for: spectre
// Generated on: Mar 18 22:51:38 2026
// Design library name: LLM_Layout_Design
// Design cell name: _tb_inv
// Design view name: schematic
simulator lang=spectre
global 0
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=pre_simu
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=noise_worst
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=ttmacro_mos_moscap
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=tt_res_bip_dio_disres
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=tt_mom
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=tt_ind_jvar
include "@@VB_PDK_SPECTRE_INCLUDE@@" section=tt_r_metal

// Library name: LLM_Layout_Design
// Cell name: inv
// View name: schematic
subckt inv VDD VIN VOUT VSS
    M0 (VOUT VIN VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n
    M1 (VOUT VIN VDD VDD) pch_mac l=30n w=2u multi=1 nf=1 sd=100n
ends inv
// End of subcircuit definition.

// Library name: LLM_Layout_Design
// Cell name: _tb_inv
// View name: schematic
V1 (VDD 0) vsource dc=900.0m type=dc
V0 (VSS 0) vsource dc=0 type=dc
V2 (VIN 0) vsource dc=0 type=pulse val0=0 val1=900.0m period=1n width=500p \
        rise=20p fall=20p
Cload (VOUT 0) capacitor c=10f
I3 (VDD VIN VOUT VSS) inv
simulatorOptions options psfversion="1.4.0" reltol=1e-4 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=3n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" savetime=[600] savefile="spectre.tran.save" \
    annotate=status flushtime=30 maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
